US09359400B2
2-((35-Amino-3,6,9,12,15,18,21,24,27,30,33-undecaoxapentatriacontyl)carbamoyl)-2-undecyltridecanedioic acid
2-((2,2-Dimethyl-4-oxo-3,8,11,14,17,20,23,26,29,32,35,38-dodecaoxa-5-azatetracontan-40-yl)carbamoyl)-2-undecyltridecanedioic acid (5 mg, 4.68 μmol) was dissolved in DCM (Volume: 2 mL), then trifluoroacetic acid (25 μl, 0.324 mmol) was added. The reaction mixture was stirred at room temperature under nitrogen atmosphere for about 2 hours. Complete conversion was observed by LCMS (Acidic Eluent A: Water+0.05% Trifluoroacetic Acid, Eluent B: ACN, column Sunfire C18 3.5 μm 3.0×30 mm −40° C., 5-95% gradient 2 minutes, retention time 1.45 min) The reaction mixture was concentrated under reduced pressure, then rinsed with DCM and concentrated again 3 times. Dissolved in a mixture of acetonitrile and DMSO. Purified on a MS-triggered HPLC (Sunfire 30×50 mm Sum column ACN/H2O w/0.1% TFA 75 ml/min 1.5 ml injection, 45-70% ACN 3.5 min gradient, retention time 2.50 minutes) and the fractions pooled and lyophilized to give 2.5 mg clean product in 55% yield. Clear oil.

reactant | 2-((2,2-Dimethyl-4-oxo-3,8,11,14,17,20,23,26,29,32,35,38-dodecaoxa-5-azatetracontan-40-yl)carbamoyl)-2-undecyltridecanedioic acid | 4.68 μmol, 5 mg | CC(C)(OC(NCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCNC(=O)C(C(=O)O)(CCCCCCCCCCC(=O)O)CCCCCCCCCCC)=O)C | C54H104N2O18
reactant | trifluoroacetic acid | 0.324 mmol, 25 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | O | H2O
reactant | ACN | C(C)#N | C2H3N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-((35-Amino-3,6,9,12,15,18,21,24,27,30,33-undecaoxapentatriacontyl)carbamoyl)-2-undecyltridecanedioic acid | 2.5 mg, 55% yield | NCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCNC(=O)C(C(=O)O)(CCCCCCCCCCC(=O)O)CCCCCCCCCCC | C49H96N2O16
